* C:\Users\Tom\Documents\EE\EE352\Project\LTSPICE\Project.asc
Vdd VDD 0 15
Vee VEE 0 -15
XU1 N003 N001 VDD VEE N002 OP27
R1 N002 N001 2.2k
R2 N001 0 1k
R3 N002 N004 330
C1 N004 N003 4.7n
R4 N003 0 330
C2 N003 0 4.7n
I1 0 N003 PULSE(10n 0 0 1n 1n 5n 10n 10)
.tran 0 5m 0 10n
.lib ADI.lib
.backanno
.end
